US05250527
Thionyl chloride (1.8 ml) in chloroform (15 ml, alumina dried) was added dropwise to a stirred and cooled solution of 2-hydroxymethyl-3-fluoro-4-morpholinopyridine (1.74 g) in chloroform (20 ml). After 2 hours at room temperature the solution was reduced in volume and ether added. The precipitate was filtered off, washed and dried to give 2-chloromethyl-3-fluoro-4-morpholinopyridine hydrochloride (2.1 g) m.p. 203°-205°.

reactant | Thionyl chloride | 1.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-3-fluoro-4-morpholinopyridine | 1.74 g | OCC1=NC=CC(=C1F)N1CCOCC1 | C10H13FN2O2
reactant | ether | CCOCC | C4H10O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-fluoro-4-morpholinopyridine hydrochloride | 2.1 g | Cl.ClCC1=NC=CC(=C1F)N1CCOCC1 | InChI=1S/C10H12ClFN2O.ClH/c11-7-8-10(12)9(1-2-13-8)14-3-5-15-6-4-14;/h1-2H,3-7H2;1H
